US07084123B2
To a solution of 1-(benzyloxycarbonyl)-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole (0.20 g) in 2,4,6-trimethylpyridine (4 mL) was added ethyl chloroformate (0.092 mL), and the mixture was stirred at room temperature for 1 day. To the reaction mixture were added water and citric acid monohydrate, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 1-(benzyloxycarbonyl)-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole (0.17 g).

reactant | 1-(benzyloxycarbonyl)-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole | 0.20 g | C(C1=CC=CC=C1)OC(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C28H34N2O9
reactant | ethyl chloroformate | 0.092 mL | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
reactant | citric acid monohydrate | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
solvent | 2,4,6-trimethylpyridine | 4 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 1-(benzyloxycarbonyl)-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole | 0.17 g | C(C1=CC=CC=C1)OC(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)COC(=O)OCC | C31H38N2O11
